US08236943B2
Synthesis of Phytanyl Mesylate:
Phytanol (20.0 g, 66.7 mmol), triethylamine (18.6 mL, 133 mmol) and a stir bar were added to a 1000 mL round bottom flask. The flask was sealed and flushed with nitrogen. Anhydrous DCM (250 mL) was added, and the mixture cooled to −15° C. (Ice and NaCl). Mesyl Chloride (10.4 mL, 133 mmol) was added slowly via syringe over a 30 minute period, and the reaction stirred at −15° C. for a further 1.5 hours. At this point TLC showed that the starting material had been used up. The solution was diluted with DCM (250 mL) and washed with saturated NaHCO3 (2×200 mL). The organic phase was then dried (MgSO4), filtered and concentrated (rotovap). The crude product was purified by column chromatography. Yield 21.5 g, 85.7%.

reactant | Phytanol | 66.7 mmol, 20.0 g | C(CC(C)CCCC(C)CCCC(C)CCCC(C)C)O | C20H42O
reactant | triethylamine | 133 mmol, 18.6 mL | C(C)N(CC)CC | C6H15N
reactant | Mesyl Chloride | 133 mmol, 10.4 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | Phytanyl Mesylate | S(C)(=O)(=O)OCCC(C)CCCC(C)CCCC(C)CCCC(C)C | C21H44O3S
